US07078438B2
Step B: Preparation of 3,4-difluoro-2-[[2-fluoro-4(trimethylsilylethynyl)phenyl]amino]benzoic acid
A mixture of the product of Step A, 2-fluoro-4-[(trimethylsilyl)ethynyl]aniline (3.85 g, 18.6 mmol) and 2,3,4-trifluorobenzoic acid (3.27 g, 18.6 mmol) was dissolved in dry THF (25 mL). The flask was fitted with a pressure-equalising dropping funnel and the entire apparatus evacuated and flushed with N2. The solution was then cooled to −78° C. (acetone/dry ice) and a solution of 1.06 M LiHMDS (52.64 mL, 55.8 mmol) was added dropwise from the dropping funnel. Following this addition, the reaction mixture was allowed to warm to room temperature and stirred for a further 15 hours. The reaction solvent was removed under reduced pressure and the resulting residue partitioned between 1 M HCl (100 mL) and EtOAc (2×100 mL). The combined EtOAc fractions were then washed with water (100 mL) and saturated NaCl (100 mL), dried (Na2SO4), and the EtOAc removed under reduced pressure to afford a crude product which was purified by chromatography on flash silica (10% EtOAc/hexanes as eluant), giving the desired product as a pale yellow solid (3.99 g, 59%); m.p. (EtOAc/hexanes) 164–167° C. 1H NMR [400 MHz, (CD3)2SO] δ 13.70 (br s, 1 H), 9.31 (br s, 1 H), 7.82 (ddd, J=9.1, 6.1, 2.0 Hz, 1 H), 7.34 (dd, J=12.0, 1.9 Hz, 1 H), 7.18 (ddd, J=8.3, 1.9, 0.8 Hz, 1 H), 7.16 (td, J=9.5, 7.3 Hz, 1 H), 6.93 (ddd, J=8.9, 8.3, 5.4 Hz, 1 H), 0.22 (s, 9 H). Anal. Calcd for C18H16F3NO2Si: C, 59.5; H, 4.4; N, 3.9. Found: C, 59.7; H, 4.7; N, 3.9.

reactant | 2-fluoro-4-[(trimethylsilyl)ethynyl]aniline | 18.6 mmol, 3.85 g | FC1=C(N)C=CC(=C1)C#C[Si](C)(C)C | C11H14FNSi
reactant | 2,3,4-trifluorobenzoic acid | 18.6 mmol, 3.27 g | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | LiHMDS | 55.8 mmol, 1.06 M, 52.64 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3,4-difluoro-2-[[2-fluoro-4(trimethylsilylethynyl)phenyl]amino]benzoic acid | 3.99 g, 59% | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)C#C[Si](C)(C)C)F | C18H16F3NO2Si
